US04970318
A. N-(4-ethoxycarbonylthiazol-2-yl)benzamide
A solution of 19.02 g. of benzoylthiourea and 19.12 g. of ethyl bromopyruvate in 300 ml. of ethanol was refluxed for 2 hours. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (1 liter) and 20% aqueous sodium carbonate (400 ml.). The organic layer was separated, washed successively with 20% aqueous sodium carbonate (3×400 ml.), water (2×400 ml.) and a brine solution (2×400 ml.) and dried over sodium sulfate. The solution was concentrated to about 50 ml. and the precipitated solids filtered and dried, 20.16 g., m.p. 146-147° C.

reactant | benzoylthiourea | C(C1=CC=CC=C1)(=O)NC(=S)N | C8H8N2OS
reactant | ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | C(C)O | C2H6O
product | N-(4-ethoxycarbonylthiazol-2-yl)benzamide | C(C)OC(=O)C=1N=C(SC1)NC(C1=CC=CC=C1)=O | C13H12N2O3S
